US06380218B1
2-(3-Methoxycarbonyl-phenoxy)-nicotinic acid
To a solution 2-(3-Methoxycarbonyl-phenoxy)-nicotinic acid benzyl ester (1.1 g) in methanol (15 ml) and ethyl acetate (15 ml) was added 10% palladium on carbon (0.2 g). This was shaken under 30 psi hydrogen for 2 hours. The catalyst was removed by filtration, and the solution was concentrated to give a solid which was triturated in methylene chloride/hexane to give a white solid (0.630 g). MW 273.26; MS (m/e) 274 (M++1).

reactant | 2-(3-Methoxycarbonyl-phenoxy)-nicotinic acid benzyl ester | 1.1 g | C(C1=CC=CC=C1)OC(C1=C(N=CC=C1)OC1=CC(=CC=C1)C(=O)OC)=O | C21H17NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 2-(3-Methoxycarbonyl-phenoxy)-nicotinic acid | 0.630 g | COC(=O)C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C14H11NO5
